US06727264B1
1-(3-CHLOROPROPOXY)-4-METHYLBENZENE:
Prepared by Procedure U and Scheme AK using p-cresol and 1-bromo-3-chloropropane.

reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-(3-CHLOROPROPOXY)-4-METHYLBENZENE | ClCCCOC1=CC=C(C=C1)C | C10H13ClO
